US07893056B2
4,6-Dichloro-5-fluoro-2-methylpyrimidine (280 mg, 1.54 mmol) was dissolved in 5 mL of THF and stirred at room temperature. Methyl[2-(4-pyridinyl)ethyl]amine (210 mg, 1.54 mmol) was added, followed by triethylamine (240 μL, 1.69 mmol). The resulting reaction mixture was stirred overnight. The reaction was diluted with EtOAc, washed with brine, was dried (sodium sulfate) and was evaporated to provide 6-chloro-5-fluoro-N,2-dimethyl-N-[2-(4-pyridinyl)ethyl]-4-pyrimidinamine (350 mg, 81%) that was used without further purification. LCMS: (M+H)+: 281.1.

reactant | 4,6-Dichloro-5-fluoro-2-methylpyrimidine | 1.54 mmol, 280 mg | ClC1=NC(=NC(=C1F)Cl)C | C5H3Cl2FN2
reactant | Methyl[2-(4-pyridinyl)ethyl]amine | 1.54 mmol, 210 mg | CNCCC1=CC=NC=C1 | C8H12N2
reactant | triethylamine | 1.69 mmol, 240 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-chloro-5-fluoro-N,2-dimethyl-N-[2-(4-pyridinyl)ethyl]-4-pyrimidinamine | 350 mg, 81% | ClC1=C(C(=NC(=N1)C)N(CCC1=CC=NC=C1)C)F | C13H14ClFN4
